US07723523B2
245. 3-Cyano-2-[(E)-3-(2-ethoxy-phenyl)-allanoylamino]-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethylamide
The following compounds 246 to 251 may be prepared according to general procedure FF described later herein starting from N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-ethoxy-phenyl)-acrylamide or N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(furan-2-yl)-acrylamide respectively.

reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(2-ethoxy-phenyl)-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC2=C(C=CC=C2)OCC)=O | C19H19N3O2S
reactant | N-(3-cyano-4,5,6,7-tetrahydro-thieno[2,3-c]pyridin-2-yl)-3-(furan-2-yl)-acrylamide | C(#N)C1=C(SC=2CNCCC21)NC(C=CC=2OC=CC2)=O | C15H13N3O2S
product | 3-Cyano-2-[(E)-3-(2-ethoxy-phenyl)-allanoylamino]-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid ethylamide | C(C)NC(=O)N1CC2=C(CC1)C(=C(S2)NC(\C=C\C2=C(C=CC=C2)OCC)=O)C#N | C22H24N4O3S
